US06300368B1
4′-[2-(Isopropylamino)ethoxy]-3′-methanesulfonamido-2-(methanesulfonyl)benzanilide (1.6 g) was dissolved into ethanol (50 ml) and to this solution 1N HCl/ethanol (9 ml) was added in an ice bath. The mixture was stirred. Crystals separated were collected by filtration, washed with ethanol (5 ml) and dried under vacuum to obtain 4′-[2-(isopropylamino)ethoxy]-3′-methanesulfonamido-2-(methanesulfonyl)benzanilide hydrochloride (1.6 g) as white crystal.

reactant | 4′-[2-(Isopropylamino)ethoxy]-3′-methanesulfonamido-2-(methanesulfonyl)benzanilide | 1.6 g | C(C)(C)NCCOC1=C(C=C(NC(C2=C(C=CC=C2)S(=O)(=O)C)=O)C=C1)NS(=O)(=O)C | C20H27N3O6S2
reactant | HCl ethanol | 9 ml | Cl.C(C)O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4′-[2-(isopropylamino)ethoxy]-3′-methanesulfonamido-2-(methanesulfonyl)benzanilide hydrochloride | 1.6 g | Cl.C(C)(C)NCCOC1=C(C=C(NC(C2=C(C=CC=C2)S(=O)(=O)C)=O)C=C1)NS(=O)(=O)C | InChI=1S/C20H27N3O6S2.ClH/c1-14(2)21-11-12-29-18-10-9-15(13-17(18)23-31(4,27)28)22-20(24)16-7-5-6-8-19(16)30(3,25)26;/h5-10,13-14,21,23H,11-12H2,1-4H3,(H,22,24);1H
